US09193935B2
2-Ethoxy-4-(3-phenylprop-1-enyl)phenol
To a solution of tert-butyl(2-ethoxy-4-(3-phenylprop-1-enyl)phenoxy)-dimethylsilane (3.12 g, 8.46 mmol, 1.0 equiv.), in THF (17 mL), n-Bu4NF (10.2 mL, 10.2 mmol, 1.2 equiv., 1.0 M in THF) was added, and the mixture was stirred at 25° C. for 1 h. After addition of H2O, the aqueous layer was extracted with MTBE (2×), the combined organic phases were washed with brine, dried (MgSO4), filtered and the filtrate was concentrated. The residue was purified by flash chromatography on SiO2 (cyclohexane/EtOAc 95:5) to yield 1.60 g (74%) of the title compound as a yellow oil.

reactant | tert-butyl(2-ethoxy-4-(3-phenylprop-1-enyl)phenoxy)-dimethylsilane | 8.46 mmol, 3.12 g, 1.0 equiv. | C(C)(C)(C)[Si](C)(C)OC1=C(C=C(C=C1)C=CCC1=CC=CC=C1)OCC | C23H32O2Si
reactant | n-Bu4NF | 10.2 mmol, 1.0 M, 10.2 mL, 1.2 equiv. | [N+](CCCC)(CCCC)(CCCC)CCCC.[F-]
reactant | H2O | O | H2O
solvent | THF | 17 mL | C1CCOC1 | C4H8O
product | 2-Ethoxy-4-(3-phenylprop-1-enyl)phenol | 1.60 g, 74% | C(C)OC1=C(C=CC(=C1)C=CCC1=CC=CC=C1)O | C17H18O2
